US06413995B1
A solution of ethyl (E)-3-[4-(methoxymethoxy)phenyl]-2-butenoate (3.79 g) in methanol was stirred with 0.76 mol/l aqueous sodium hydroxide at room temperature for 2 hours. Methanol was evaporated and 0.45 mol/l hydrochloric acid was added dropwise to the residue to precipitate a solid, which was then filtered, washed with water, and dried by heating under reduced pressure to give (E)-3-[4-(methoxymethoxy)phenyl]-2-butenoic acid (2.36 g, 70%) as a colorless solid.

reactant | ethyl (E)-3-[4-(methoxymethoxy)phenyl]-2-butenoate | 3.79 g | COCOC1=CC=C(C=C1)/C(=C/C(=O)OCC)/C | C14H18O4
reactant | sodium hydroxide | 0.76 mol/l | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | (E)-3-[4-(methoxymethoxy)phenyl]-2-butenoic acid | 2.36 g, 70% | COCOC1=CC=C(C=C1)/C(=C/C(=O)O)/C | C12H14O4
